US04743602
cis-2,6-Dimethylmorpholine (8.9 g, 0.077 mol) was added dropwise to a solution of 2-(5-t-butylfuran-2-yl)-cyclopropanecarbonyl chloride (3.5 g, 0.0154 mol) in sodium dried ether (40 ml) at 10° C. and after complete addition the solution was stirred at 20° C. for 3 hours. The reaction mixture was poured into water and extracted with diethyl ether (2×100 ml). The ethereal extracts were washed with water, dried over anhydrous sodium sulphate, and the solvent removed to give 2-(5-t-butylfuran-2-yl)-cyclopropanecarbonyl-2,6-cis-dimethylmorpholine as a yellow oil. This oil was separated by column chromatography [silica eluted with petroleum ether ethyl acetate (1:1)] to give 2-(5-t-butylfuran-2-yl)-trans-cyclopropanecarbonyl-2,6-cis-dimethylmorpholine (1.43 g, 30%).

reactant | cis-2,6-Dimethylmorpholine | 0.077 mol, 8.9 g | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | 2-(5-t-butylfuran-2-yl)-cyclopropanecarbonyl chloride | 0.0154 mol, 3.5 g | C(C)(C)(C)C1=CC=C(O1)C1C(C1)C(=O)Cl | C12H15ClO2
reactant | water | O | H2O
solvent | sodium | 40 ml | [Na] | Na
product | 2-(5-t-butylfuran-2-yl)-cyclopropanecarbonyl-2,6-cis-dimethylmorpholine | C(C)(C)(C)C1=CC=C(O1)C1C(C1)C(=O)N1C[C@H](O[C@H](C1)C)C | C18H27NO3
